US03983241
2-amino-1-ethoxycarbonyl-4,5-dicyanoimidazole
2 g of 2-amino-4,5-dicyanoimidazole was dissolved in 20 ml of pyridine 2.5 g of diethyl pyrocarbonate was added dropwise to it and then it was stirred during two hours at a room temperature.

reactant | 2-amino-4,5-dicyanoimidazole | 2 g | NC=1NC(=C(N1)C#N)C#N | C5H3N5
reactant | diethyl pyrocarbonate | C(OCC)(=O)OC(=O)OCC | C6H10O5
solvent | pyridine | 20 ml, 2.5 g | N1=CC=CC=C1 | C5H5N
product | 2-amino-1-ethoxycarbonyl-4,5-dicyanoimidazole | NC=1N(C(=C(N1)C#N)C#N)C(=O)OCC | C8H7N5O2
